US04550105
On the other hand, to a solution of 0.410 g of DMF in 10 ml of methylene chloride is added 0.475 g of diphosgene at -10° C. and the mixture is stirred at room temperature for 15 minutes. A solution of 1.23 g of 2-(2-chloroacetamidothiazol-4-yl)-2-isopropoxyiminoacetic acid (syn-isomer) and 0.530 g of triethylamine in 15 ml of methylene chloride is added dropwise at -60° to -50° C. and the mixture is stirred at -40°~-30° C. for 1.5 hours. Then, 0.490 g of triethylamine is added at -60°~-50° C. and the above prepared THF solution is further added. The mixture is allowed to stand at room temperature over 1 hour and the solvent is distilled off under reduced pressure. The residual ethyl acetate solution is washed with water and concentrated under reduced pressure. Purifying the residue on a silica gel column (ethyl acetate:n-hexane=2:1) yields 1.23 g of (3S,4S)-4-acetoxy-3-[2-(2-chloroacetamidothiazol-4-yl)-2-isopropoxyiminoacetamido]-2-oxoazetidine (syn-isomer).

reactant | DMF | 0.410 g | CN(C)C=O | C3H7NO
reactant | diphosgene | 0.475 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 2-(2-chloroacetamidothiazol-4-yl)-2-isopropoxyiminoacetic acid | 1.23 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)O)=NOC(C)C | C10H12ClN3O4S
reactant | triethylamine | 0.530 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.490 g | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | (3S,4S)-4-acetoxy-3-[2-(2-chloroacetamidothiazol-4-yl)-2-isopropoxyiminoacetamido]-2-oxoazetidine | 1.23 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)NC(C(=NOC(C)C)C=1N=C(SC1)NC(CCl)=O)=O | C15H18ClN5O6S
